US06833378B2
4-Chloro-6-ethyl-3-methyl-2-(2,4,6-trimethyl-phenoxy)-pyridine
To a solution of 4-Chloro-6-ethyl-3-methyl-2-(2,4,6-trimethyl-phenoxy)-pyridine 1-oxide in methylene chloride was added PCl3 and the resulting mixture was heated at reflux for 20 min, cooled to rt. The mixture was concentrated to dryness. The residue was worked-up using standard procedure to give the title compound. After silica gel purification, the titel compound was prepared as a white solid, mp. 42-44° C. Anal. For C17H20ClNO calc. C, 70.46; H, 6.96; N, 4.83; found, C, 70.35; H, 7.13; N, 4.58.

reactant | 4-Chloro-6-ethyl-3-methyl-2-(2,4,6-trimethyl-phenoxy)-pyridine 1-oxide | ClC1=C(C(=[N+](C(=C1)CC)[O-])OC1=C(C=C(C=C1C)C)C)C | C17H20ClNO2
reactant | PCl3 | P(Cl)(Cl)Cl | Cl3P
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-Chloro-6-ethyl-3-methyl-2-(2,4,6-trimethyl-phenoxy)-pyridine | ClC1=C(C(=NC(=C1)CC)OC1=C(C=C(C=C1C)C)C)C | C17H20ClNO
